US08664207B2
3) (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one
Sodium hydride (95%, 112 mg, 4.44 mmol) is suspended in 3 mL of anhydrous THF, and then a mixture of (3aS,8aR)-7-Methyl-1,2,3,3a,7,8a-hexahydro-3b,7,8-triaza-cyclopenta[a]inden-6-one (283 mg, 1.48 mmol) and p-toluenesulfonylmethyl isocyanide (97%, 347 mg, 1.77 mmol) in 5 mL of anhydrous THF is added dropwise. The mixture is stirred at room temperature for an hour, and then quenched with water. The mixture is extracted with CH2Cl2 (5×10 mL). The combined organic phase is washed with brine, and then dried with anhydrous Na2SO4. After filtration, the filtrate is evaporated to dryness under reduced pressure to give crude product (320 mg, yield 94%) as brown solids, which is used for the next reaction without further purification. MS (ESI) m/z 231.1 [M+H]+.

reactant | Sodium hydride | 4.44 mmol, 112 mg | [H-].[Na+]
reactant | (3aS,8aR)-7-Methyl-1,2,3,3a,7,8a-hexahydro-3b,7,8-triaza-cyclopenta[a]inden-6-one | 1.48 mmol, 283 mg | CN1C2=N[C@H]3[C@@H](N2C=CC1=O)CCC3 | C10H13N3O
reactant | p-toluenesulfonylmethyl isocyanide | 1.77 mmol, 347 mg | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (6aR,9aS)-5,6a,7,8,9,9a-hexahydro-5-methyl-cyclopent[4,5]imidazo[1,2-a]pyrrolo[4,3-e]pyrimidin-4(2H)-one | 320 mg, yield 94% | CN1C=2N(C=3C(C1=O)=CNC3)[C@@H]3[C@H](N2)CCC3 | C12H14N4O
